US08304546B2
N-(3-Propoxynaphthalen-2-yl)acetamide (2.5 g, 10.2 mmol) was dissolved in ethanol (10 ml). Concentrated hydrochloric acid (5.2 ml) was added thereto, and the resulting mixture was stirred for 4 hours while heating under reflux. The reaction mixture was cooled to room temperature, and a 5N aqueous sodium hydroxide solution (12.5 ml) was added thereto to adjust its pH to 11, followed by extraction using dichloromethane. The thus-obtained organic layer was concentrated to dryness under reduced pressure, and the residue was then purified using silica gel column chromatography (dichloromethane). The purified product was concentrated to dryness under reduced pressure, giving a white powder of 3-propoxynaphthalen-2-ylamine (2.05 g, yield: 100%).

reactant | N-(3-Propoxynaphthalen-2-yl)acetamide | 10.2 mmol, 2.5 g | C(CC)OC=1C(=CC2=CC=CC=C2C1)NC(C)=O | C15H17NO2
reactant | hydrochloric acid | 5.2 ml | Cl | ClH
reactant | sodium hydroxide | 5N, 12.5 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-propoxynaphthalen-2-ylamine | 2.05 g, yield: 100% | C(CC)OC=1C(=CC2=CC=CC=C2C1)N | C13H15NO
